US05656648
C) 1-(5-Chloro-2-methoxy-4-methylphenyl)-1-ethanone
A suspension of 2.12 g of AlCl3 in 20 ml of CCl4 is cooled to 0° C. under a nitrogen atmosphere, and a solution of 1.25 g of acetyl chloride in 10 ml of CCl4 is added dropwise. A solution of 2.5 g of 2-chloro-5-methoxytoluene in 10 ml of CCl4 is then added dropwise, and the mixture is left stirring for 2 hours while the temperature is allowed to rise to r.t. The mixture is poured into a mixture of concentrated HCl and ice, the resulting mixture is extracted with DCM, the organic phase is dried over magnesium sulphate and the solvent is evaporated off under vacuum. The residue is chromatographed on silica H, eluting with a DCM/heptane (70:30; v/v) mixture. 0.68 g of the expected product, m.p.=83° C., is obtained.

reactant | AlCl3 | 2.12 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 1.25 g | C(C)(=O)Cl | C2H3ClO
reactant | 2-chloro-5-methoxytoluene | 2.5 g | ClC1=C(C=C(C=C1)OC)C | C8H9ClO
reactant | HCl | Cl | ClH
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(5-Chloro-2-methoxy-4-methylphenyl)-1-ethanone | 0.68 g | ClC=1C(=CC(=C(C1)C(C)=O)OC)C | C10H11ClO2
